US06518265B1
1-(2-Aminoethyl)-4,4-ethylenedioxypiperidine
A suspension of 12.7 g of 4,4-ethylenedioxy-1-piperidineacetonitrile, 1.3 ml of Raney nickel and 113 ml of 2% methanolic solution of ammonia was catalytically hydrogenated at room temperature under 50 atm for 20 hours. After the reaction, the catalyst was filtered off, and the filtrate was concentrated. The resulting pale green liquid was purified by alumina column chromatography [eluting solvent: ethyl acetate→ethyl acetate—methanol (10:1)] to give 10.1 g of a colorless liquid.

reactant | 4,4-ethylenedioxy-1-piperidineacetonitrile | 12.7 g | C1OC2(CCN(CC2)CC#N)OC1 | C9H14N2O2
reactant | ammonia | N | H3N
catalyst | Raney nickel | 1.3 ml | [Ni] | Ni
product | 1-(2-Aminoethyl)-4,4-ethylenedioxypiperidine | 10.1 g | NCCN1CCC2(CC1)OCCO2 | C9H18N2O2
